US06399781B1
treating the mixture of 4,4-dicyano-3-methyl-3-butenal dimethyl acetal and 1,1-dicyano-4-methoxy-2-methyl-1,3-butadiene so produced with a strong acid and water, to yield 3-cyano-4-methyl-2-pyridone

reactant | 4,4-dicyano-3-methyl-3-butenal dimethyl acetal | COC(CC(=C(C#N)C#N)C)OC | C9H12N2O2
reactant | 1,1-dicyano-4-methoxy-2-methyl-1,3-butadiene | C(#N)C(=C(C=COC)C)C#N | C8H8N2O
solvent | water | O | H2O
product | 3-cyano-4-methyl-2-pyridone | C(#N)C=1C(NC=CC1C)=O | C7H6N2O
